US08633200B2
Methyl 2-(5-methyl-7-oxo-2-phenyl-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a solution of 3-phenyl-1H-pyrazol-5-amine (4 g, 25.1 mmol) and dimethyl 2-acetylsuccinate (12 mL, 74.0 mmol) in xylene (120 mL) was added p-toluenesulfonic acid monohydrate (50 mg, 0.263 mmol). The reaction mixture was heated at reflux under a Dean-Stark trap for 20 h. The solid was filtered and washed with hexanes to afford the title compound (6.4 g, 86%). 1H-NMR (400 MHz, MeOD) δ ppm 2.37 (3H, s), 3.66 (2H, s), 3.72 (3H, s), 6.46 (1H, s), 7.34-7.53 (3H, m), 7.87-8.06 (2H, m).

reactant | 3-phenyl-1H-pyrazol-5-amine | 25.1 mmol, 4 g | C1(=CC=CC=C1)C1=NNC(=C1)N | C9H9N3
reactant | dimethyl 2-acetylsuccinate | 74.0 mmol, 12 mL | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
solvent | xylene | 120 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | p-toluenesulfonic acid monohydrate | 0.263 mmol, 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl 2-(5-methyl-7-oxo-2-phenyl-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate | 6.4 g, 86% | CC=1NC=2N(C(C1CC(=O)OC)=O)N=C(C2)C2=CC=CC=C2 | C16H15N3O3
